US07713994B2
(4Z)-6-(3-Furyl)-4-[({4-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]phenyl}amino)-methylene]isoquinoline-1,3(2H,4H)-dione
An amount of 0.15 g (0.32 mmol) of (4Z)-6-bromo-4-[({4-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]phenyl}amino)-methylene]-isoquinoline-1,3(2H,4H)-dione in 2 mL of DMF is added 0.076 g (0.64 mmol) of 3-furanboronic acid, 0.02 g (0.017 mmol) of tris(dibenzyldeneaacetone)-dipalladium(0), 0.02 g (0.064 mmol) of 2-(di-t-butyl-phosphino)-biphenyl, and 0.072 g (0.64 mmol) of sodium carbonate. The reaction mixture is stirred at 100 oC under N2 for 2 h. Mass spectroscopy suggested the completion of reaction. Solids were removed by filtration, and solvent is subsequently evaporated under high-pressure vacuum to brown solid. The residue is purified using silica gel chromatography (using 5% MeOH/CHCl3 as eluent), 0.064 mg (43.8% yield) of yellow solid is obtained: mp 204-205 oC; MS (ESI) m/z 457.2 (M+H)+1

reactant | (4Z)-6-bromo-4-[({4-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]phenyl}amino)-methylene]-isoquinoline-1,3(2H,4H)-dione | 0.32 mmol, 0.15 g | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1C[C@H](N([C@H](C1)C)C)C | C23H25BrN4O2
reactant | 3-furanboronic acid | 0.64 mmol, 0.076 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | 2-(di-t-butyl-phosphino)-biphenyl | 0.064 mmol, 0.02 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium carbonate | 0.64 mmol, 0.072 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (4Z)-6-(3-Furyl)-4-[({4-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]phenyl}amino)-methylene]isoquinoline-1,3(2H,4H)-dione | 0.064 mg, 43.8% yield | O1C=C(C=C1)C=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1C[C@H](N([C@H](C1)C)C)C | C27H28N4O3
